US08377923B2
Acetonitrile (25 ml) and water (8.3 ml) were added to 5-{5-[1-(2,4-difluorophenoxy)-1-methylethyl]-4-methyl-4H-1,2,4-triazol-3-yl}-2-(4-methoxybenzyl)isoindolin-1-one (629 mg), and cerium (IV) ammonium nitrate (1.71 g) was added thereto, followed by stirring at room temperature for 2 hours. Water was added to the reaction solution, followed by extraction with ethyl acetate, the organic layer was washed with saturated brine and then dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:20% methanol-chloroform solution=100:0 to 0:100), the solvent was evaporated under reduced pressure, and the residue was solidified with 2-propanol:diisopropylether (1:1) to obtain, as a colorless powdery solid, 5-{5-[1-(2,4-difluorophenoxy)-1-methylethyl]-4-methyl-4H-1,2,4-triazol-3-yl}isoindolin-1-one (247 mg).

reactant | Acetonitrile | 25 ml | C(C)#N | C2H3N
reactant | 5-{5-[1-(2,4-difluorophenoxy)-1-methylethyl]-4-methyl-4H-1,2,4-triazol-3-yl}-2-(4-methoxybenzyl)isoindolin-1-one | 629 mg | FC1=C(OC(C)(C)C=2N(C(=NN2)C=2C=C3CN(C(C3=CC2)=O)CC2=CC=C(C=C2)OC)C)C=CC(=C1)F | C28H26F2N4O3
reactant | cerium (IV) ammonium nitrate | 1.71 g | [N+](=O)([O-])[O-].[NH4+].[Ce+4].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-]
solvent | Water | O | H2O
solvent | water | 8.3 ml | O | H2O
product | 5-{5-[1-(2,4-difluorophenoxy)-1-methylethyl]-4-methyl-4H-1,2,4-triazol-3-yl}isoindolin-1-one | 247 mg | FC1=C(OC(C)(C)C=2N(C(=NN2)C=2C=C3CNC(C3=CC2)=O)C)C=CC(=C1)F | C20H18F2N4O2
